US04840971
(ii) Synthesis of 2-(4-chlorophenyl)-3,3,3-trifluoropropenyl methyl ether
Under a nitrogen atmosphere, 33.6 ml of n-butyllithium/hexane solution (1.2M solution) was added to a solution of 17.3 g of methoxymethyltriphenylphosphonium chloride in 150 ml of dry THF at -60° C. The reaction solution was stirred at -60° C. for 30 minutes and at -20° C. for 30 minutes. A solution of 7.0 g of 4-chloro-α,α,α-trifluoroacetophenone in 10 ml of dry THF was slowly added to the reaction solution at -60° C. The reaction solution was stirred at -60° C. for 1 hour and at room temperature for 12 hours. Thereafter, 200 ml of n-hexane was added to the reaction mixture and insoluble materials were filtered out. The filtrate was washed with dilute HCl-ice water and saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residues was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (40:1) mixture] to obtain 4.17 g of the desired compound (E/Z=ca. 1/1).

reactant | n-butyllithium hexane | 1.2M, 33.6 ml | C(CCC)[Li].CCCCCC
reactant | methoxymethyltriphenylphosphonium chloride | 17.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-chloro-α,α,α-trifluoroacetophenone | 7.0 g | C1=CC(=CC=C1C(=O)C(F)(F)F)Cl | C8H4ClF3O
reactant | n-hexane | 200 ml | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-chlorophenyl)-3,3,3-trifluoropropenyl methyl ether | 4.17 g | COC=C(C(F)(F)F)C1=CC=C(C=C1)Cl | C10H8ClF3O
